US09359367B2
Synthesis of (1R,5S)-8-benzyl-3-(4-fluorophenyl)-3,8-diazabicyclo[3.2.1]octane
To a stirred solution of 8-benzyl-3,8-diazabicyclo[3.2.1]octane (2.5 g, 12.36 mmol) in 1,4-dioxane (15 ml) in sealed tube at 25° C. was added 2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl (0.770 g, 1.23 mmol), sodium tert-butoxide (2.37 g, 24.72 mmol), 1-bromo-4-fluorobenzene (1.63 ml, 14.83 mmol) and tris(dibenzyllideneacetone)dipalladium (0) [Pd2(dba)3] (0.566 g, 0.618 mmol). The resulting reaction mixture was purged with nitrogen for 10 min and stirred at 100° C. for 15 h. The reaction mixture was then cooled to 25° C., filtered through a celite bed, and the celite bed was washed with ethyl acetate (2×20 ml). The combined filtrate was concentrated under reduced pressure to get crude compound. The resulting crude compound was purified by using flash column chromatography over silica gel (100-200 mesh) using 10% ethylacetate in hexane to obtain title compound (2.4 g 66%).

reactant | 8-benzyl-3,8-diazabicyclo[3.2.1]octane | 12.36 mmol, 2.5 g | C(C1=CC=CC=C1)N1C2CNCC1CC2 | C13H18N2
reactant | 2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl | 1.23 mmol, 0.770 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 24.72 mmol, 2.37 g | CC(C)([O-])C.[Na+]
reactant | 1-bromo-4-fluorobenzene | 14.83 mmol, 1.63 ml | BrC1=CC=C(C=C1)F | C6H4BrF
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | (1R,5S)-8-benzyl-3-(4-fluorophenyl)-3,8-diazabicyclo[3.2.1]octane | 2.4 g, 66% | C(C1=CC=CC=C1)N1[C@H]2CN(C[C@@H]1CC2)C2=CC=C(C=C2)F | C19H21FN2
